US03965143
To a solution of 6.8 parts of 3-methyl-1-butyne in 50 parts by volume of ether, cooled to -40°, is added dropwise 46.7 parts by volume of 2.14 M n-butyl lithium in hexane. The resulting solution is allowed to warm to room temperature and is stored at that temperature for about 15-30 minutes, then cooled again to -40° and 10.8 parts of trimethylsilyl chloride is added. The temperature is allowed to rise to room temperature and the mixture is stirred for about 1 hour, at the end of which time 46.7 parts by volume of 2.14 M n-butyl lithium in hexane is added dropwise. The resulting reaction mixture is heated at the reflux temperature for about 18 hours, then is cooled to about -10° and 8.6 parts of valeraldehyde is added. The mixture is allowed to warm to room temperature, then is stirred for about 2 hours and poured into a mixture of ether and dilute hydrochloric acid. The ether layer is washed with water, dried over anhydrous sodium sulfate, stripped of solvent under reduced pressure and distilled under vacuum to afford (4(RS)-hydroxy-3,3-dimethyl-1-octynyl)trimethylsilane, characterized by an infrared absorption maximum of about 2160 reciprocal centimeters.

reactant | 3-methyl-1-butyne | CC(C#C)C | C5H8
reactant | n-butyl lithium | 2.14 M | C(CCC)[Li]
reactant | trimethylsilyl chloride | C[Si](C)(C)Cl | C3H9ClSi
reactant | n-butyl lithium | 2.14 M | C(CCC)[Li]
reactant | valeraldehyde | C(CCCC)=O | C5H10O
reactant | hydrochloric acid | Cl | ClH
solvent | hexane | CCCCCC | C6H14
solvent | ether | CCOCC | C4H10O
product | (4(RS)-hydroxy-3,3-dimethyl-1-octynyl)trimethylsilane | OC(C(C#C[Si](C)(C)C)(C)C)CCCC | C13H26OSi
